US05665719
To a strirred, 0° C. solution of triphenylphosphine (57.2 g, 0.218 mol) and 2,4-dihydroxybenzoic acid methyl ester (29.2 g, 0.174 mol) in dry THF (200 mL) was added a solution of N-t-butyloxy-4-piperidinol (35 g, 0.174 mol) and diethylazodicarboxylate (32.9 mL, 0.209 mol) in dry THF (150 mL) dropwise over a period of 2 h. The resulting solution was slowly warmed to ambient temperature over 6 h and stirred for an additional 16 h. The solvent was removed under reduced pressure and the residue was dissolved in EtOAc (500 mL) and washed with 10% aqueous Na2CO3 (3×250 mL), water (150 mL), and brine (150 mL). The EtOAc layer was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using a gradient elution of 10-25% EtOAc-hexane. 4-(N-t-Butoxycarbonyl-4-piperidinyloxy)-2-hydroxybenzoic acid methyl ester was obtained as a waxy solid (51% yield).

reactant | triphenylphosphine | 0.218 mol, 57.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,4-dihydroxybenzoic acid methyl ester | 0.174 mol, 29.2 g | COC(C1=C(C=C(C=C1)O)O)=O | C8H8O4
reactant | N-t-butyloxy-4-piperidinol | 0.174 mol, 35 g | C(C)(C)(C)ON1CCC(CC1)O | C9H19NO2
reactant | diethylazodicarboxylate | 0.209 mol, 32.9 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-(N-t-Butoxycarbonyl-4-piperidinyloxy)-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)O)=O | C18H25NO6
